US06858638B2
2-Methylsulfonyl-N-(3-quinolin-8-yl-1H-indazol-5-yl)benzenesulfonamide can be obtained as described in Example 59 from 2 g of tert-butyl 3-iodo-5-(2-methylsulfonylbenzenesulfonylamino)indazole-1-carboxylate, 1.17 g of 8-quinolineboronic acid, 80 ml of dimethylformamide, 7.5 ml of a saturated aqueous sodium hydrogencarbonate solution and 98 mg of tetrakis(triphenylphosphine)palladium[0]. 30 mg of 2-methylsulfonyl-N-(3-quinolin-8-yl-1H-indazol-5-yl)benzenesulfonamide are thus obtained in the form of a pale yellow solid melting at 21 g° C. (analysis C23H18N4O4S2 % calculated C, 57.73; H, 3.79; N, 11.71; O, 13.37; S, 13.4. % found C, 57.10; H, 4.11; N, 11.19; S, 11.94).

reactant | tert-butyl 3-iodo-5-(2-methylsulfonylbenzenesulfonylamino)indazole-1-carboxylate | 2 g | IC1=NN(C2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C)C(=O)OC(C)(C)C | C19H20IN3O6S2
reactant | 8-quinolineboronic acid | 1.17 g | N1=CC=CC2=CC=CC(=C12)B(O)O | C9H8BNO2
reactant | sodium hydrogencarbonate | 7.5 ml | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 2-methylsulfonyl-N-(3-quinolin-8-yl-1H-indazol-5-yl)benzenesulfonamide | 30 mg | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)NC=1C=C2C(=NNC2=CC1)C=1C=CC=C2C=CC=NC12 | C23H18N4O4S2
